US08614327B2
4-cyclohexylaniline (15 g, 85.58 mmol) was added portionwise to conc. sulfuric acid (85 mL, 1.6 mol) to generate a homogeneous solution. The solution was then cooled to 0° C. and KNO3 (13 g, 128.6 mmol) was added portionwise maintaining the internal temperature below 5° C. The reaction was stirred for 5 minutes at −10° C. and then poured on ice water, basified with 6N NaOH solution and the aqueous layer was extracted with EtOAc, dried over MgSO4, filtered and concentrated to obtain 4-cyclohexyl-3-nitroaniline (17 g, 921%). 1H NMR (400 MHz, CDCl3) δ 7.20 (d, J=8.5 Hz, 1H), 6.97 (d, J=2.5 Hz, 1H), 6.82 (dd, J=8.4, 2.5 Hz, 1H), 2.85 (ddd, J=11.4, 8.3, 3.2 Hz, 1H), 1.89-1.69 (m, 6H), 1.49-1.29 (m, 4H).

reactant | 4-cyclohexylaniline | 85.58 mmol, 15 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | sulfuric acid | 1.6 mol, 85 mL | S(O)(O)(=O)=O | H2O4S
reactant | KNO3 | 128.6 mmol, 13 g | [N+](=O)([O-])[O-].[K+]
reactant | NaOH | 6N | [OH-].[Na+]
product | 4-cyclohexyl-3-nitroaniline | 17 g, 921% | C1(CCCCC1)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C12H16N2O2
